US07598232B2
To a solution of 2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone (10 mmol) in methanol (40 mL) is added 4-nitrobenzaldehyde (10 mmol). The solution is refluxed with vigorous stirring for 5 h. The reaction mixture is cooled, diluted with water and the aqueous mixture is then extracted twice with dichloromethane and organic layer is dried over anhydrous magnesium sulfate. The dried organic solution is evaporated and the residue is recrystallized to give (E)-2,4,6-trimethoxystyryl-3-(4-nitrophenylimino)-4-methoxybenzylsulfone.

reactant | 2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone | 10 mmol | COC1=C(C=CC(C2=CC(=C(C=C2)OC)N)S(=O)(=O)C(C2=CC(=C(C=C2)OC)N)C=CC2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H44N2O10S
reactant | 4-nitrobenzaldehyde | 10 mmol | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | methanol | 40 mL | CO | CH4O
solvent | water | O | H2O
product | (E)-2,4,6-trimethoxystyryl-3-(4-nitrophenylimino)-4-methoxybenzylsulfone | COC1=C(C=CC(C=2C\C(\C(=CC2)OC)=N/C2=CC=C(C=C2)[N+](=O)[O-])S(=O)(=O)C(C=2C\C(\C(=CC2)OC)=N/C2=CC=C(C=C2)[N+](=O)[O-])C=CC2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C50H50N4O14S
